US09227944B2
Trans-4-[4-(5-chloro-2-methylphenyl)piperazinyl]-2-buten-1-amine: according to the method of Example 1, phthalimide potassium salt was reacted with trans-1,4-dihydro-2-butene to obtain N-(trans-4-chloro-2-buten-1-yl)phthalimide, mp: 108-110° C.; which was then reacted with 5-chloro-2-methylphenylpiperazine to obtain N-{4-[4-(5-chloro-2-methylphenyl)piperazinyl]-trans-2-buten-1-yl}phthalimide, which was then reacted with hydrazine hydrate to obtain the product. Yield: 89.3%. Hydrochloride mp: 140-142° C. 1HNMR (ppm, CDCl3) δ: 1.46 (br-s, 4H), 2.25 (s, 3H), 2.61 (br-s, 2H, NH2), 2.93 (m, 4H), 3.10 (d, J=7.0 Hz), 3.39 (d, J=6.72 Hz, 2H), 5.58 (m, 1H), 5.71 (m, 1H), 6.96 (m, 2H), 7.06 (d, J=7.84, 1H).

reactant | Trans-4-[4-(5-chloro-2-methylphenyl)piperazinyl]-2-buten-1-amine | ClC=1C=CC(=C(C1)N1CCN(CC1)C/C=C/CN)C | C15H22ClN3
reactant | phthalimide potassium salt | [K].C1(C=2C(C(N1)=O)=CC=CC2)=O
product | N-(trans-4-chloro-2-buten-1-yl)phthalimide | ClC/C=C/CN1C(C=2C(C1=O)=CC=CC2)=O | C12H10ClNO2
